US06191124B1
A solution of 1-(3-methylimidazo[2,1-b]thiazol-5-yl)ethanone (Formula B-1) (1.8 g) in THF (25 mL) was treated with 4-bromobenzaldehyde (3.05 mL) and sodium methoxide (0.27 g) at 25°. Within 5 minutes a heavy precipitate formed and additional THF (65 mL) was added to maintain fluididy. After 20 minutes the reaction was concentrated in vacuo and the concentrate was diluted with water and precipitated 2-(4-Bromophenyl)-E-ethenylimidazo[2,1-b]thiazole-5-yl methanone (Formula B-9) (2.9 g) was filtered. The precipitate was recrystallized from ethanol to yield pure 2-(4-Bromophenyl)-E-ethenylimidazo[2,1-b]thiazol-5-yl methanone (Formula B-9) (2.8 g, 81%), m.p. 213-215°.

reactant | 1-(3-methylimidazo[2,1-b]thiazol-5-yl)ethanone | 1.8 g | CC=1N2C(SC1)=NC=C2C(C)=O | C8H8N2OS
reactant | 4-bromobenzaldehyde | 3.05 mL | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | sodium methoxide | 0.27 g | C[O-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | 2-(4-Bromophenyl)-E-ethenylimidazo[2,1-b]thiazol-5-yl methanone | 2.8 g, 81% | BrC1=CC=C(C=C1)/C=C/C(=O)C1=CN=C2SC=CN21 | C14H9BrN2OS
